Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
abacavir / Lipitor / atenolol
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with a history of multiple
medical comorbidities including PE ___ years ago on Coumadin and
ASA, HIV with associated distal sensory polyneuropathy and gait
instability, and prior renal cancer s/p partial R nephrectomy,
who presents to the ED s/p mechanical fall 2 days ago.

Patient reports that the fall occured 2 days ago, when he was
walking with his cane (required due to significant 
neuropathy/myelopathy) when the cane got caught between his legs
causing him to fall forward onto his jaw/chin. He had no
headstrike, no LOC, and full recall of the event. The pain
persisted, and he sought initial evaluation at ___. He was found to have a bilateral mandibular fracture,
and was transferred to ___ for further OMFS and Trauma
evaluation. At time of our initial evaluation, the patient
reports having persistent jaw pain and right-sided flank pain. 
He
had no chest pain, abdominal pain, or pain along any of his
extremities. He has had no SOB, no fevers/chills, and no
lightheadedness/dizziness. He has had minimal PO intake over the
past day due to persistent jaw pain. He has been taking all his
usual home medications as below including his Coumadin and ASA.
 
Past Medical History:
HIV: diagnosed in ___, on meds since then, no OIs, followed by 
___ at ___  
Hyperlipidemia (recently stopped statin due to muscle pain)  
Renal Cancer s/p partial nephrectomy  
Pulmonary Embolism, on coumadin  
Hypertension  
Seasonal allergies
Genetic Hypercoagulability
Hx of squamous cell skin cancer
 
Social History:
___
Family History:
Family History: Mother and her brother with heart disease, and 
mother died of ?appendiceal cancer at age ___.
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.1  92  124/68  18  100%RA     GCS 15
GEN: A&O, interactive and cooperative, verbalizing pain as noted
above
Scalp/Face: No scalp or face lacerations, no facial deformities,
bilateral jaw tender to palpation, small ecchymosis at mid-chin
HEENT: No scleral icterus, mucus membranes moist, PERRLA, EOMI,
nares clear, no hemotympanum bilaterally
Neck: trachea midline, no crepitus
CV: RRR
PULM: Clear to auscultation b/l, No W/R/R
Chest wall: Tender to palpation along right mid-flank/chest 
wall,
no visible bruising or ecchymosis
ABD: Soft, nondistended, nontender, no palpable masses,
well-healed old surgical scar 
___: no visible deformities/abrasions/tenderness, full ROM,
palpable ___ pulses bilaterally 
UE: no visible deformities/abrasions/tenderness, full ROM,
palpable radial pulse bilaterally 
Neuro: CN ___ grossly intact, moves all extremities, sensory
intact throughout, rectal exam deferred
Back: no cervical/thoracic/lumbar spine tenderness
 
Pertinent Results:
MANDIBLE SERIES INCLUD PANOREX ___
Bilateral mandibular neck fractures, with probable dislocation 
of the left 
mandibular condyle. 

CHEST (PA & LAT) ___
No acute cardiopulmonary process.

CT CHEST/ABD/PELVIS W/O ___
1. Minimally displaced right anterior sixth and seventh rib 
fractures. 
2. Bilateral renal hypodensities likely reflect cysts and 
polycystic kidney disease. Bilateral hyperdense renal lesions 
may reflect proteinaceous or hemorrhagic cysts, though 
evaluation with nonemergent renal ultrasound can be obtained for 
further evaluation. 

 
Brief Hospital Course:
Mr. ___ was admitted with plan for OR with OMFS. Medicine was 
consulted for preoperative evaluation for any need for acute 
intervention on his chronic issues. On morning of ___, he 
voiced displeasure with his care here, and did not want surgery. 
He was told the risks of not having surgery, and was recommended 
to stay in the hospital for continued care. He expressed 
understanding of the risks, and elected to leave AMA.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 6 mg PO DAILY16 
2. Aspirin 81 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. RiTONAvir 100 mg PO DAILY 
6. Ranitidine 150 mg PO BID 
7. Raltegravir 400 mg PO BID 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. LaMIVudine 150 mg PO DAILY 
10. Atazanavir 300 mg PO DAILY 
11. amLODIPine 5 mg PO DAILY 
12. ALPRAZolam 1 mg PO BID:PRN anxiety  

 
Discharge Medications:
1.  ALPRAZolam 1 mg PO BID:PRN anxiety   
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atazanavir 300 mg PO DAILY  
5.  LaMIVudine 150 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Raltegravir 400 mg PO BID  
8.  Ranitidine 150 mg PO BID  
9.  RiTONAvir 100 mg PO DAILY  
10.  Rosuvastatin Calcium 20 mg PO QPM  
11.  Sertraline 100 mg PO DAILY  
12.  Warfarin 6 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bilateral mandible fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have bilateral jaw fractures for which we recommend wiring 
done by OMFS. You are leaving against medical advice. We 
recommend following up with the ___ clinic.
 
Followup Instructions:
___